US04605664
Step A: 4-[(6,7-Dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]-1-butene
2-Cyclopentyl-6,7-dichloro-2,3-dihydro-2-methyl-5-hydroxy-1H-inden-1-one (12 gm., 0.04 mole) is dissolved in dimethylformamide (30 m.) and treated with potassium carbonate (5.5 gm., 0.04 mole). The mixture is stirred and heated on a steam bath for 30 minutes and 4-bromo-1-butene (5.5 gm. 0.04 mole) is added and the mixture stirred and heated at 60° C. for 24 hours. The reaction mixture is poured into water (300 ml.) and after standing, the product removed by filtration, dried and recrystallized from petroleum ether. The yield is 11.5 gm., m.p. 63°-65° C.

reactant | 2-Cyclopentyl-6,7-dichloro-2,3-dihydro-2-methyl-5-hydroxy-1H-inden-1-one | 0.04 mole, 12 gm | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C15H16Cl2O2
reactant | potassium carbonate | 0.04 mole, 5.5 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1-butene | 0.04 mole, 5.5 gm | BrCCC=C | C4H7Br
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(6,7-Dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]-1-butene | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCC=C | C19H22Cl2O2
